US08309733B2
3-(2-Chloro-5-thiazolylmethyl)-2-(benzoylimino)-thiazolidine (“Table 4”, Compound No. 57)
3-(2-Chloro-5-thiazolylmethyl)-2-iminothiazolidine (233 mg, 1.0 mmol) and sodium carbonate (120 mg, 1.1 mmol) were dissolved in 10 ml of water, into which, benzoyl chloride (141 mg, 1.0 mmol) dissolved in 5 ml of chloroform was added under cooling with ice, and thereafter stirred at room temperature for 2 hours. The chloroform layer was washed successively with 1% hydrochloric acid and water, dehydrated and dried, chloroform was distilled off, and remaining oil was purified by a silica gel column chromatography to obtain the intended substance. The crude crystal of the intended substance was recrystallized from ethyl acetate. Yield: 101 mg (30%). Melting point: 120° C.

reactant | 3-(2-Chloro-5-thiazolylmethyl)-2-iminothiazolidine | 1.0 mmol, 233 mg | ClC=1SC(=CN1)CN1C(SCC1)=N | C7H8ClN3S2
reactant | sodium carbonate | 1.1 mmol, 120 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzoyl chloride | 1.0 mmol, 141 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 10 ml | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Chloro-5-thiazolylmethyl)-2-(benzoylimino)-thiazolidine | ClC=1SC(=CN1)CN1C(SCC1)=NC(C1=CC=CC=C1)=O | C14H12ClN3OS2
